US07220759B2
By the reaction in the same manner as in Example 2a, using 5-methyl-3-(piperidin-4-yl)-2H-isoquinolin-1-one hydrochloride (1 g) and 4-bromo-1-butanol (433 mg), 5-methyl-3-[1-(4-hydroxybutyl)piperidin-4-yl]-2H-isoquinolin-1-one (201 mg) was obtained.

reactant | 5-methyl-3-(piperidin-4-yl)-2H-isoquinolin-1-one hydrochloride | 1 g | Cl.CC1=C2C=C(NC(C2=CC=C1)=O)C1CCNCC1
reactant | 4-bromo-1-butanol | 433 mg | BrCCCCO | C4H9BrO
product | 5-methyl-3-[1-(4-hydroxybutyl)piperidin-4-yl]-2H-isoquinolin-1-one | 201 mg | CC1=C2C=C(NC(C2=CC=C1)=O)C1CCN(CC1)CCCCO | C19H26N2O2
